US07713993B2
(1) Synthesis of tert-butyl N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazinecarboxylate
HOBT (420 mg) and EDC (590 mg) were sequentially added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (530 mg), tert-butyl carbazate (271 mg) and IPEA (0.71 mL) in DMF (10 mL), and the reaction solution was stirred at room temperature for 15 hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting solid was recrystallized from a mixed solution of ethyl acetate and ethanol to obtain 668 mg of the title compound. The property values of the compound are as follows.

reactant | HOBT | 420 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 530 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | tert-butyl carbazate | 271 mg | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | IPEA | 0.71 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 590 mg
product | tert-butyl N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazinecarboxylate | 668 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(=O)OC(C)(C)C | C19H24N4O4
